US04394515
8-Chloro-3-cyanodibenzo[b,f]thiepin
1 G. 8-amino-3-cyanodibenzothiepin is suspended in 16 cc. concentrated hydrochloric acid and 5 cc. of water. The suspension is maintained at a temperature between 0° and 5° C. and 300 mg. sodium nitrite in 2 cc. of cold water is added slowly. The reaction mixture is stirred for 1/2 hour. A mixture of 400 mg. cuprous chloride and 700 mg. cupric chloride dihydrate is then added slowly. After the evolution of nitrogen has subsided, the reaction mixture is stirred at room temperature for 20 minutes, water added and the reaction mixture extracted with chloroform, dried over sodium sulfate and evaporated to dryness to yield 995 mg. (92%) of the pure chloro derivative, m.p. 207°-210° C.

reactant | 8-amino-3-cyanodibenzothiepin | NC1=CC=CC2=C1C=CSC1=C2C=CC(=C1)C#N | C15H10N2S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 8-Chloro-3-cyanodibenzo[b,f]thiepin | ClC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C#N)C1 | C15H8ClNS
